US08710043B2
Step 6. (S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxypicolinamide
To a stirred mixture of (S)-6-(benzyloxy)-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-nitropicolinamide (800 mg, 0.0014 mol) in THF (8 mL), was added 10% Pd/C (800 mg, Aldrich). The reaction mixture was stirred under hydrogen atmosphere in the form of hydrogen bladder (˜20-22 PSI) for 12 h at room temperature. After completion of the reaction (monitored by TLC, 100% EtOAc), the reaction mixture was filtered through Celite® brand filter agent, the filtrate dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 11.00 (s, 1H), 9.13 (d, J=6 Hz, 1H), 8.46 (d, J=4 Hz, 1H), 7.79 (t, J=9.2 Hz, 1H), 7.57-7.46 (m, 3H), 7.33 (d, J=8.4 Hz, 1H), 7.08 (br. s., 1H), 6.62 (d, J=7.6 Hz, 1H), 6.40 (br. s., 1H), 5.83 (br. s., 2H). MS (ESI, positive ion) m/z: 440.9 (M+H).

reactant | (S)-6-(benzyloxy)-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-5-nitropicolinamide | 0.0014 mol, 800 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=N1)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F)[N+](=O)[O-] | C26H17F5N4O5
reactant | hydrogen | [H][H] | H2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 800 mg | [Pd] | Pd
product | (S)-5-Amino-N-((3-fluoro-4-(trifluoromethoxy)phenyl)(3-fluoropyridin-2-yl)methyl)-6-hydroxypicolinamide | NC=1C=CC(=NC1O)C(=O)N[C@H](C1=NC=CC=C1F)C1=CC(=C(C=C1)OC(F)(F)F)F | C19H13F5N4O3
